US07381728B2
3′-Chloro-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-4-biphenylsulfonamide (E111)
To a mixture of 4-bromo-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]benzenesulfonamide (E106) (75 mg, 0.17 mmol) and (3-chlorophenyl)boronic acid (56 mg, 0.36 mmol) in DME (3 ml) was added potassium tert-butoxide (180 mg, 1.60 mmol) and tetrakis(triphenylphosphine)palladium(0) (15 mg, 0.01 mmol) in water (1 ml) and the resulting mixture stirred in a microwave (set at high absorbance) at 100° C. for 30 minutes. The resulting mixture was then evaporated in vacuo and purified using an SCX cartridge eluting with methanol followed by ammonia (2M in methanol). The appropriate fractions were combined and evaporated in vacuo and the residue purified further by mass directed autoprep HPLC to afford the title compound (E111). MS (ES+) m/e 486/488 [M+H]+.

reactant | 4-bromo-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]benzenesulfonamide | 0.17 mmol, 75 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)N1C[C@H](N[C@H](C1)C)C)OC | C19H24BrN3O3S
reactant | (3-chlorophenyl)boronic acid | 0.36 mmol, 56 mg | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | potassium tert-butoxide | 1.60 mmol, 180 mg | CC(C)([O-])C.[K+]
solvent | DME | 3 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-Chloro-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-4-biphenylsulfonamide | ClC=1C=C(C=CC1)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)N1C[C@H](N[C@H](C1)C)C)OC | C25H28ClN3O3S
